US08975411B2
Synthesis of tert-butyl imino{[(2S)-2-(mesityloxy)propanoyl]amino}methylcarbamate
(2S)-2-(Mesityloxy)propionic acid (5.6 g; 27 mmol), diisopropylethylamine (17.3 g; 133 mmol), tert-butyl amino(imino)methylcarbamate (4.3 g; 27 mmol), and 1-hydroxybenzotriazole monohydrate (4.1 g; 27 mmol) were dissolved in N,N-dimethylformamide (80 mL), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (10.2 g; 27 mmol) was added, and the mixture was stirred for 137 hours at room temperature. To the reaction solution, ethyl acetate (400 mL) was added, and the mixture was washed sequentially with 10% aqueous citric acid solution, brine, and saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure, to give 8.6 g of the title compound (yield 91%) as an oil.

reactant | (2S)-2-(Mesityloxy)propionic acid | 27 mmol, 5.6 g | C1(=C(C(=CC(=C1)C)C)O[C@H](C(=O)O)C)C | C12H16O3
reactant | diisopropylethylamine | 133 mmol, 17.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl amino(imino)methylcarbamate | 27 mmol, 4.3 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 27 mmol, 4.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 27 mmol, 10.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl imino{[(2S)-2-(mesityloxy)propanoyl]amino}methylcarbamate | 8.6 g, yield 91% | N=C(NC([C@H](C)OC1=C(C=C(C=C1C)C)C)=O)NC(OC(C)(C)C)=O | C18H27N3O4
